US05688808
3-(4-Nitrophenyl)pyridine (structure 2, where R1 =3-pyridyl)
To a solution of H2SO4 (6 mL) cooled in an ice bath to 0° C. was added 3-phenylpyridine (1.0 g, 6.4 mmol). The orange-red solution was vigorously stirred while HNO3 (1 mL) was slowly added dropwise to give a cloudy light yellow solution. After stirring at room temperature for 20 min the solution was carefully poured into a beaker filled with ice (200 g). The solution was neutralized with 20% NaOH to give a cloudy white suspension which was extracted with EtOAc (3×150 mL). The organic layers were combined, washed with brine (2×50 mL), dried (NaSO4) and concentrated in vacuo to give the desired product (1.2 g, 99%) as a light yellow solid. Data for 3-(4-nitrophenyl)pyridine: Rf =0.47 (silica gel, methanol/CHCl3, 5/95); 1H NMR (400 MHz, acetone-d6) 8.99 (s, 1H), 8.67 (s, 1H), 8.37 (d, J=7.0, 2H), 8.18 (m, 1H), 8.02 (d, J=7.0, 2H), 7.53 (m, 1H).

reactant | H2SO4 | 6 mL | OS(=O)(=O)O | H2O4S
reactant | 3-phenylpyridine | 6.4 mmol, 1.0 g | C1(=CC=CC=C1)C=1C=NC=CC1 | C11H9N
reactant | HNO3 | 1 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
product | 3-(4-Nitrophenyl)pyridine | 1.2 g, 99% | [N+](=O)([O-])C1=CC=C(C=C1)C=1C=NC=CC1 | C11H8N2O2
